US06943162B2
4-(2-{[4-[[3-(4-fluorophenyl)propyl](methyl)amino]-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]methylamino}ethyl)phenol
The title compound was prepared in 97% yield via the procedure outlined for Example 14 using 4-{2-[(4-chloro-6-{[3-(4-fluorophenyl)propyl]methylamino}-1,3,5-triazin-2-yl)methylamino]ethyl}phenol and 1-methypiperazine to give a white solid: 1H NMR (CDCl3, 400 MHz) δ 7.12 (s, br, 2H), 7.06 (d, 2H, J=8.0), 6.94 (m, 2H); 6.72 (d, 2H, J=8.0), 4.88 (s, br, 1H) 3.79-3.58 (m, 9H), 3.08 (s, 3H), 3.02 (s, br, 3H), 2.78 (m, 2H), 2.60 (t, 2H, J=7.0), 2.45 (s, br, 4H), 2.34 (s, 3H), 1.88 (m, 2H); low-resolution MS (ES+) m/e 495 (MH+); RP-HPLC (Capcell Pak C-18 25 cm×4.6 mm; 0-95% CH3CN in H2O with 0.1% TFA buffer; 30 minutes; 1 mL/min) tr=12.04 min, 99% purity.

reactant | 4-{2-[(4-chloro-6-{[3-(4-fluorophenyl)propyl]methylamino}-1,3,5-triazin-2-yl)methylamino]ethyl}phenol | ClC1=NC(=NC(=N1)N(C)CCCC1=CC=C(C=C1)F)CNCCC1=CC=C(C=C1)O | C22H25ClFN5O
reactant | 1-methypiperazine | CN1CCNCC1 | C5H12N2
reactant | CH3CN | CC#N | C2H3N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | 4-(2-{[4-[[3-(4-fluorophenyl)propyl](methyl)amino]-6-(4-methyl-1-piperazinyl)-1,3,5-triazin-2-yl]methylamino}ethyl)phenol | 97% yield | FC1=CC=C(C=C1)CCCN(C1=NC(=NC(=N1)N1CCN(CC1)C)CNCCC1=CC=C(C=C1)O)C | C27H36FN7O
